US04349684
8-(3-Benzyl-2-oxo-4-phenyl-4-imidazolin-1-yl) caprylic acid methyl ester
The product is produced as described in example 1 from 1.8 g of NaH (80% suspension in mineral oil), 15 g of 1-benzyl-5-phenyl-4-imidazolin-2-one, 120 cc. of DMF, 14.2 g of 8-bromocaprylic acid methyl ester and 1.8 g of NaJ.

reactant | NaH | 1.8 g | [H-].[Na+]
reactant | 1-benzyl-5-phenyl-4-imidazolin-2-one | 15 g | C(C1=CC=CC=C1)N1C(NC=C1C1=CC=CC=C1)=O | C16H14N2O
reactant | 8-bromocaprylic acid methyl ester | 14.2 g | COC(CCCCCCCBr)=O | C9H17BrO2
solvent | DMF | CN(C)C=O | C3H7NO
product | 8-(3-Benzyl-2-oxo-4-phenyl-4-imidazolin-1-yl) caprylic acid methyl ester | COC(CCCCCCCN1C(N(C(=C1)C1=CC=CC=C1)CC1=CC=CC=C1)=O)=O | C25H30N2O3
